US09328110B2
The general method described in Step 1 of Example 1 was used to react 4-chloro-3-nitroquinoline (45.3 g, 217 mmol), β-alanine ethyl ester hydrochloride (40.0 g, 240 mmol), and triethylamine (54.8 g, 542 mmol) in dichloromethane for 15 hours to provide ethyl 3-(3-nitroquinolin-4-ylamino)propionate (62.0 g) as a yellow solid.

reactant | 4-chloro-3-nitroquinoline | 217 mmol, 45.3 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | β-alanine ethyl ester hydrochloride | 240 mmol, 40.0 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 542 mmol, 54.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(3-nitroquinolin-4-ylamino)propionate | 62.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCC(=O)OCC | C14H15N3O4
